US06384234B1
Preparation of N-(5-Amino-2-chloro-4-fluorophenyl)-N-[(chloromethyl)sulfonyl]acetamide
65.7 g (0.19 mol) of N-(2-chloro-4-fluoro-5-nitrophenyl)-N[(chloromethyl)sulfonyl]acetamide were dissolved in 1200 mL of ethanol and transferred into an autoclave. 2.5 g of an iridium catalyst (5% on carbon) were added and the apparatus was purged with nitrogen and hydrogen, respectively. A hydrogen pressure of 2,000 kPa (20 atmospheres) was applied and the mixture wag heated to 80° C. After 4 hours the hot reaction mixture was filtered and cooled to room temperature whereas some of the product precipitated. The crystals were filtered off and the mother liquor was concentrated and cooled. The precipitates were combined and dried to yield 41.9 g (70.2%) of the title compound as a solid melting at 176-180° C.

reactant | N-(2-chloro-4-fluoro-5-nitrophenyl)-N[(chloromethyl)sulfonyl]acetamide | 0.19 mol, 65.7 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N(C(C)=O)S(=O)(=O)CCl | C9H7Cl2FN2O5S
solvent | ethanol | 1200 mL | C(C)O | C2H6O
catalyst | iridium | 2.5 g | [Ir] | Ir
product | N-(5-Amino-2-chloro-4-fluorophenyl)-N-[(chloromethyl)sulfonyl]acetamide | 41.9 g, 70.2% | NC=1C(=CC(=C(C1)N(C(C)=O)S(=O)(=O)CCl)Cl)F | C9H9Cl2FN2O3S
